US04797391
A mixture of 5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3,9-dione (2.67 g) and pyridine hydrochloride (35 g) was heated at 175°-180° C. in an inert atmosphere for 3/4 hour, poured into ice water and extracted with a mixture of ether and tetrahydrofuran. The organic extracts were washed with water, dried over MgSO4 and evaporated in vacuo to give 5,6-dichloro-7-hydroxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3,9-dione which was used in Step E without further purification.

reactant | 5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3,9-dione | 2.67 g | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OC)=O)CCC)=O | C17H16Cl2O3
reactant | pyridine hydrochloride | 35 g | Cl.N1=CC=CC=C1
product | 5,6-dichloro-7-hydroxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3,9-dione | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)O)=O)CCC)=O | C16H14Cl2O3
